US08044041B2
A mixture of 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid and 4-chloro-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid (311 mg, 1.385 mmol), catalytic DMF and thionyl chloride (7 mL) was refluxed for 3 hours. The solution was cooled, concentrated under vacuum and treated 3 times with toluene in order to remove the excess thionyl chloride. The crude residue was dissolved in DMF (3 mL) and added dropwise to a 0° C. solution of 3-(trifluoromethyl)benzylamine (0.22 mL, 1.524 mmol), DMF (5 mL) and 60% NaH (199 mg, 8.31 mmol). The reaction was stirred at room temperature overnight, diluted with water and extracted with EtOAc (×3). The combined organic layers were washed with water, brine and dried (Na2SO4). Column chromatography (Hex/EtOAc) afforded 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid 3-trifluoromethyl-benzylamide (30 mg) as a white solid. 1H NMR (400 MHz, d6-DMSO) δ: 4.62 (d, 2H), 7.65 (m, 4H), 8.10 (d, 1H), 8.47 (dd, 1H), 8.80 (d, 1H), 9.65 (t, 1H), 12.99 (s, 1H) ppm; m/z (M+1) 382.17; and 4-chloro-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid 3-trifluoromethyl-benzylamide (33 mg) as a white solid.

reactant | 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | ClC1=NNC(C2=CC(=CC=C12)C(=O)O)=O | C9H5ClN2O3
reactant | 4-chloro-1-oxo-1,2-dihydro-phthalazine-6-carboxylic acid | 1.385 mmol, 311 mg | ClC1=NNC(C2=CC=C(C=C12)C(=O)O)=O | C9H5ClN2O3
reactant | thionyl chloride | 7 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(trifluoromethyl)benzylamine | 1.524 mmol, 0.22 mL | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | NaH | 8.31 mmol, 199 mg | [H-].[Na+]
solvent | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-chloro-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid 3-trifluoromethyl-benzylamide | 30 mg | FC(C=1C=C(CNC(=O)C=2C=C3C(NN=C(C3=CC2)Cl)=O)C=CC1)(F)F | C17H11ClF3N3O2
